US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
Benzyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate-Using benzyl 4-hydroxybenzoate, the title compound was synthesized as a white, crystalline solid. PMR (CDCl3): δ 1.32 (6H, s), 1.35 (6H, s), 1.72 (4H, s), 5.38 (2H, s), 7.24-7.48 (8H, m), 7.92 (1H, dd, J~8.8 Hz, 1.8 Hz), 8.12-8.20 (3H, m).

reactant | Benzyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C29H30O4
reactant | benzyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
